US07572809B2
Similar procedure as described in example 10 was used, starting from (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and cyclobutanol to give (1-Cyclobutoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 325 (MH+).

reactant | (1-Chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | cyclobutanol | C1(CCC1)O | C4H8O
product | (1-Cyclobutoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C1(CCC1)OC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C18H20N4O2
